US06350892B1
3-[N-Dodecyl-N-[2-[4-iodophenoxy]ethyl]amino]propanoic Acid, Ethyl Ester
A mixture of N-2-[4-iodophenoxy]ethyldodecylamine (1.0 g, 2.3 mmol), ethyl acrylate (1.2 g, 12 mmol) and ethanol (3 ml) was stirred and refluxed for 6 h, and then concentrated in vacuo . The residue was chromatographed on silica gel (hexane/ethyl acetate 8:1) to afford the title compound (1.05 g, 86%) as a colorless oil.

reactant | N-2-[4-iodophenoxy]ethyldodecylamine | 2.3 mmol, 1.0 g | IC1=CC=C(OCCNCCCCCCCCCCCC)C=C1 | C20H34INO
reactant | ethyl acrylate | 12 mmol, 1.2 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-[N-Dodecyl-N-[2-[4-iodophenoxy]ethyl]amino]propanoic Acid, Ethyl Ester | 1.05 g, 86% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)I)CCC(=O)OCC | C25H42INO3
